US05753664
3,5-Dimethyl-2-[4-[4-(4-picolyloxy)benzoyl]benzylthio]-4(3H)-quinazolinone
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (369 mg), 4-picolyl chloride hydrochloride (144 mg) and potassium carbonate (350 mg) in DMF (5 ml) was stirred at room temperature for 3 days. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was recrystallized from ethyl acetate-chloroform to provide the title compound as colorless solid (99 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 369 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 4-picolyl chloride hydrochloride | 144 mg | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | 350 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(4-picolyloxy)benzoyl]benzylthio]-4(3H)-quinazolinone | 99 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=CC=NC=C1)=O | C30H25N3O3S
